* File: oai14.pex.netlist.pex
* Created: Fri Apr  8 18:52:25 2022
* Program "Calibre xRC"
* Version "v2016.4_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_OAI14%A 4 7 17
c0 12 0 0.122932f
c1 11 0 0.111738f
c2 4 0 0.43349f
r3 12 17 0.0246667
r4 11 12 13.2552
r5 8 11 3.348
r6 4 7 150.6
r7 2 8 5.0159
r8 2 7 50.4
.ends

.subckt PM_OAI14%Y 7 8 15 23
c0 18 0 0.136565f
c1 11 0 0.213292f
c2 3 0 0.0235513f
c3 2 0 0.0972635f
r4 18 23 0.185348
r5 17 18 8.16635
r6 15 17 2.286
r7 10 11 5.44423
r8 8 10 2.20075
r9 7 10 2.20075
r10 5 11 0.46413
r11 4 23 0.106522
r12 3 4 0.039111
r13 2 5 0.039111
r14 2 3 0.176522
.ends

.subckt PM_OAI14%B 4 7 14
c0 10 0 0.148572f
c1 9 0 0.108293f
c2 4 0 0.964162f
r3 10 14 0.01624
r4 9 11 8.43283
r5 9 10 13.2552
r6 7 11 172.65
r7 4 7 263.35
.ends

.subckt PM_OAI14%C 5 8 21
c0 21 0 0.14797f
c1 17 0 0.111459f
c2 12 0 0.0602052f
c3 8 0 0.156511f
c4 5 0 1.05273f
r5 17 21 13.2552
r6 14 17 3.33
r7 10 12 13
r8 6 12 0.528559
r9 6 8 35
r10 3 14 5.0159
r11 3 5 172.65
r12 2 10 0.528559
r13 2 5 219.35
.ends

.subckt PM_OAI14%D 4 8 18
c0 15 0 0.182813f
c1 14 0 0.0909707f
c2 8 0 0.216709f
c3 4 0 0.894036f
r4 14 18 0.0182
r5 13 15 3.525
r6 13 14 13.2552
r7 10 13 4.275
r8 6 15 5.86457
r9 6 8 56.75
r10 2 10 5.86457
r11 2 4 176.6
.ends

.subckt PM_OAI14%VDD 7 8 9 14
c0 17 0 0.199458f
c1 12 0 0.539719f
c2 4 0 0.0974403f
r3 16 17 1.36106
r4 14 16 0.382182
r5 11 12 5.44423
r6 9 11 1.5291
r7 8 23 2.72212
r8 5 17 1.25696
r9 5 7 0.0267953
r10 4 23 0.198333
r11 4 7 0.0158023
r12 3 12 1.98739
r13 2 23 0.261154
r14 2 3 0.0425976
.ends

.subckt PM_OAI14%GND 6 14 21 22 26 27
c0 30 0 0.179562f
c1 25 0 0.180459f
c2 12 0 0.0256742f
c3 10 0 0.0345976f
c4 6 0 0.0175969f
r5 29 30 8.16635
r6 27 29 2.295
r7 26 29 2.295
r8 24 25 8.16635
r9 22 24 2.295
r10 21 24 2.295
r11 14 19 2.04159
r12 12 19 0.156406
r13 12 13 0.0223375
r14 11 30 0.415739
r15 11 13 0.0146576
r16 9 19 0.0951563
r17 9 10 0.0223375
r18 8 25 0.415739
r19 8 10 0.0146576
r20 4 13 0.0223375
r21 4 6 0.125781
.ends

.subckt PM_OAI14%E 4 9 17
c0 17 0 0.0792597f
c1 12 0 0.113847f
c2 9 0 0.220193f
c3 6 0 0.0380592f
c4 5 0 0.0693362f
c5 2 0 0.537489f
r6 12 17 13.2552
r7 7 12 8.37425
r8 7 9 72.5
r9 5 12 7.93868
r10 5 6 30
r11 2 6 5.02856
r12 2 4 155.1
.ends

.subckt PM_OAI14%noxref_9 10 11 15 16 20
c0 23 0 0.0830428f
c1 19 0 0.139697f
c2 14 0 0.138117f
c3 8 0 0.0280491f
c4 4 0 0.170244f
c5 3 0 0.0465228f
c6 2 0 0.127367f
r7 22 23 8.16635
r8 20 22 2.295
r9 18 19 8.16635
r10 16 18 2.295
r11 15 18 2.295
r12 13 14 8.16635
r13 11 13 3.384
r14 10 13 2.286
r15 9 23 0.132087
r16 7 19 0.132087
r17 7 8 0.00770322
r18 6 14 0.132087
r19 5 8 0.0296412
r20 4 9 0.039111
r21 4 5 0.35
r22 3 6 0.039111
r23 2 8 0.0296412
r24 2 3 0.35
.ends

.subckt PM_OAI14%noxref_10 1 2
r0 1 2 0.374688
.ends

.subckt PM_OAI14%noxref_11 1 2
r0 1 2 0.374688
.ends

.subckt PM_OAI14%noxref_12 1 2
r0 1 2 0.374688
.ends

